US06290947B1
(4-bromobutyl)trimethylammonium bromide was prepared by the reaction of trimethylamine and 1,4-dibromobutane in methanol.

reactant | trimethylamine | CN(C)C | C3H9N
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
solvent | methanol | CO | CH4O
product | (4-bromobutyl)trimethylammonium bromide | [Br-].BrCCCC[N+](C)(C)C | InChI=1S/C7H17BrN.BrH/c1-9(2,3)7-5-4-6-8;/h4-7H2,1-3H3;1H/q+1;/p-1
